US07763639B2
4-{2-FLUORO-3-[(TRIFLUOROMETHYL)SULFONYL]PHENYL}-1-(2-METHOXYETHYL)-PIPERIDINE
Preparation according to Example 1: 4-{2-fluoro-3-[(trifluoromethyl)sulfonyl]phenyl}-piperidine (0.01 g), acetonitrile (2 ml), potassium carbonate (0.01 g) and 1-bromo-2-methoxyethane (0.01 g). MS m/z (rel. intensity, 70 eV) 369 (M+, 1), 325 (15), 324 (bp), 191 (37), 133 (14).

reactant | 4-{2-fluoro-3-[(trifluoromethyl)sulfonyl]phenyl}-piperidine | 0.01 g | FC1=C(C=CC=C1S(=O)(=O)C(F)(F)F)C1CCNCC1 | C12H13F4NO2S
reactant | potassium carbonate | 0.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-methoxyethane | 0.01 g | BrCCOC | C3H7BrO
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-{2-FLUORO-3-[(TRIFLUOROMETHYL)SULFONYL]PHENYL}-1-(2-METHOXYETHYL)-PIPERIDINE | FC1=C(C=CC=C1S(=O)(=O)C(F)(F)F)C1CCN(CC1)CCOC | C15H19F4NO3S
